US06197973B1
N-Methoxy-2-chloro-3-(2-chloro-5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)-4-fluorophenyl)acrylamide
A solution of 4.5 g (10 mmol) of 2-chloro-3-(2-chloro-5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)-4-fluorophenyl)acryloyl chloride in 25 ml of toluene was treated with 25 ml of water, 14.4 g (0.1 mol) of potassium carbonate and 1.7 g (20 mmol) of methoxyamine hydrochloride. After the mixture had been stirred for 16 hours at approximately 20° C., it was heated for a further 2 hours at 40° C. The reaction mixture was subsequently diluted with 200 ml of toluene and 200 ml of water. The solids were then filtered off. The organic phase was dried over magnesium sulfate and finally concentrated. Yield: 3.1 g.

reactant | 2-chloro-3-(2-chloro-5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)-4-fluorophenyl)acryloyl chloride | 10 mmol, 4.5 g | ClC(C(=O)Cl)=CC1=C(C=C(C(=C1)C1=NN(C(=C1Cl)OC(F)F)C)F)Cl | C14H7Cl4F3N2O2
reactant | potassium carbonate | 0.1 mol, 14.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | methoxyamine hydrochloride | 20 mmol, 1.7 g | Cl.CON
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 200 ml | O | H2O
solvent | water | 25 ml | O | H2O
product | N-Methoxy-2-chloro-3-(2-chloro-5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)-4-fluorophenyl)acrylamide | CONC(C(=CC1=C(C=C(C(=C1)C1=NN(C(=C1Cl)OC(F)F)C)F)Cl)Cl)=O | C15H11Cl3F3N3O3
